US09079889B2
Synthesis of 6-(3-ethyl-2,6-difluorophenyl)picolinic acid
To a solution of methyl 6-(2,6-difluoro-3-(trifluoromethylsulfonyloxy)-phenyl)picolinate (1.0 equiv.) in toluene (0.15M) was added Pd(dppf)Cl2-DCM (0.1 equiv.) followed by diethyl zinc (3.0 equiv.). The solution turned from orange to bright yellow. The reaction was heated to 70° C. for 2 hours at which time, LC/MS analysis indicated a mixture of 1:3:1 ratio of hydrolyzed product, desired product and unknown by-product. The reaction was cooled to room temperature, diluted with ethyl acetate and washed with 1N NaOH (2×). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to provide a brown oil. The oil was redissolved in THF and treated with 1N NaOH for one hour. The reaction was then diluted with ethyl acetate and washed with 1N NaOH (2×). The basic washings were combined, acidified with concentrated HCl and extracted with ethyl acetate (3×). The organic phase was dried with magnesium sulfate, filtered, and concentrated in vacuo to provide 6-(3-ethyl-2,6-difluorophenyl)picolinic acid as a light brown oil in >99% yield. LC/MS=264.1 (M+H), Rt=0.88 min.

reactant | methyl 6-(2,6-difluoro-3-(trifluoromethylsulfonyloxy)-phenyl)picolinate | 1.0 equiv. | FC1=C(C(=CC=C1OS(=O)(=O)C(F)(F)F)F)C1=CC=CC(=N1)C(=O)OC | C14H8F5NO5S
reactant | diethyl zinc | 3.0 equiv. | C(C)[Zn]CC
solvent | toluene | 0.15M | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 DCM | 0.1 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(3-ethyl-2,6-difluorophenyl)picolinic acid | C(C)C=1C(=C(C(=CC1)F)C1=CC=CC(=N1)C(=O)O)F | C14H11F2NO2
